US04859683
2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylic acid
To 17.6 ml n-butyllithium (2.5M, 0.044 mol) in 63 ml hexane is added dropwise (0.044 mol) 5.1 g tetramethylethylenediamine (TMEDA) and 5 g (0.034 mol) of 2,3,4,5-tetrahydro-1-benzoxepin. The reaction mixture is stirred overnight. The reaction mixture is then chilled to 0° C. and carbonated with dry ice for an hour. Water (110 ml) is added and the mixture is filtered and the aqueous phase acidified with 4N HCl. The resultant oil is extracted into methylene chloride and dried (MgSO4). After filtering and concentrating in vacuo, 2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylic acid results as a tan solid.

reactant | n-butyllithium | 0.044 mol, 2.5M, 17.6 ml | C(CCC)[Li]
reactant | tetramethylethylenediamine | 0.044 mol, 5.1 g | CN(CCN(C)C)C | C6H16N2
reactant | 2,3,4,5-tetrahydro-1-benzoxepin | 0.034 mol, 5 g | O1CCCCC2=C1C=CC=C2 | C10H12O
reactant | dry ice | C(=O)=O | CO2
solvent | hexane | 63 ml | CCCCCC | C6H14
solvent | Water | 110 ml | O | H2O
product | 2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylic acid | O1CCCCC2=C1C(=CC=C2)C(=O)O | C11H12O3
